US04066778
To 17.4 of ethyleneurea is added with shaking 36 g of piperidinosulfonyl chloride (b.p. 130°/11 mm) and the mixture kept under nitrogen at 100° for 3 hrs. The mixture is cooled and the gummy material treated with methanol-isopropanol (1:1) to give a granular product of 1-piperidinosulfonyl-2-oxo-tetrahydroimidazole which melts at 201° on recrystallization from methanol.

reactant | ethyleneurea | C1CNC(=O)N1 | C3H6N2O
reactant | piperidinosulfonyl chloride | 36 g | N1(CCCCC1)S(=O)(=O)Cl | C5H10ClNO2S
solvent | methanol isopropanol | CO.C(C)(C)O
product | 1-piperidinosulfonyl-2-oxo-tetrahydroimidazole | N1(CCCCC1)S(=O)(=O)N1C(NCC1)=O | C8H15N3O3S
